US07772191B2
(2-Chloro-5-iodo-phenyl)-{4-[(S)-(tetrahydrofuran-3-yl)oxy]-phenyl}-methanone
To a solution of 60.56 g (2-chloro-5-iodo-phenyl)-(4-fluoro-phenyl)-methanone in 170 mL of tetrahydrofuran and 16.46 g of (S)-3-hydroxytetrahydrofuran is added 26 g of potassium tert-butoxide in 250 mL of tetrahydrofuran at 0 to 5° C. The solution is stirred at 10° C. for 0.5 hour. The reaction is quenched with 170 mL of water and 170 mL of methyl tert-butyl ether at 0 to 25° C. The product is washed with 170 mL of brine (3 weight-%). The solvent is removed upon evaporation and crystallized in 220 mL of iso-propylacetate.

reactant | (2-chloro-5-iodo-phenyl)-(4-fluoro-phenyl)-methanone | 60.56 g | ClC1=C(C=C(C=C1)I)C(=O)C1=CC=C(C=C1)F | C13H7ClFIO
reactant | (S)-3-hydroxytetrahydrofuran | 16.46 g | O[C@@H]1COCC1 | C4H8O2
reactant | potassium tert-butoxide | 26 g | CC(C)([O-])C.[K+]
solvent | tetrahydrofuran | 170 mL | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 250 mL | O1CCCC1 | C4H8O
product | (2-Chloro-5-iodo-phenyl)-{4-[(S)-(tetrahydrofuran-3-yl)oxy]-phenyl}-methanone | ClC1=C(C=C(C=C1)I)C(=O)C1=CC=C(C=C1)O[C@@H]1COCC1 | C17H14ClIO3
